Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
redness/swelling in RUE
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ yo F with PMH stage IIIa melanoma s/p
resection and LN resection/interferon in remission since ___,
chronic R arm lymphedema presents to ___ ED on ___ with 
R
upper extremity redness consistent with cellulitis. 

Ms. ___ states she woke up this morning with redness and mild
swelling close to her elbow. Denies any trauma, insect bite,
scratch, or pruritis prior to sleeping. No recent travel.
Erythema spread rapidly around her elbow then down her foream 
and
later up towards her axillae. At that time she went to the ED
where she was found to have a fever of 101.3 but no other sepsis
criteria. She denies night sweats, weight loss, and only has
minimal pain in the arm. 

Describes 2 other similar events, last ___ where she was
treated for 4 days inpatient with iv abx and dc'd with still 
mild
erythema. She was then given zithro by her PCP ___ ? cat scratch
disease and the rash cleared immediately. Prior to that she had
another episode ___ year prior with similar results, attempted po
outpatient abx with continued spread and required inpatient stay
with iv antibiotics. 

Given unasyn and vancomycin in the ED at 14:25 with markings of
RUE with mild spread up arm

Onc history: 
Ms. ___ presented with an erythematous papule above her right
breast in late ___. Excisional biopsy performed on ___
demonstrated a 0.80 mm thick, early ___ IV, superficial
spreading melanoma, without ulceration and with 5 mitoses/mm2. 
On ___, she underwent wide local excision and sentinel lymph
node biopsy performed by Dr. ___.  Pathology from this 
procedure
revealed no residual melanoma at the primary site, but one right
axillary sentinel lymph node was positive for micrometastatic
melanoma.  On ___, she underwent completion right axillary
lymph node dissection with 12 lymph nodes removed, revealing no
melanoma. She commenced a course of adjuvant interferon on
___, completed in ___. She has been followed in
observation since then without evidence of recurrence.
 
Review of systems:  
(+) erythema, swelling R arm, fever
(-) Denies night sweats, weight loss, vomiting,a bd pain,
diarrhea, hematochezia, chest pain, SOA, confusion, dizziness,
loss of appetite, numbness/tingling
10 pt ROS otherwise neg

 
Past Medical History:
Stage IIIa Melanoma s/p resection + LN resection + IFN in
remission
RUE Lymphedema

PAST SURGICAL HISTORY:  
Melanoma resection at RU chest
Lymph node resection 
essential htn
hld
 

 
Social History:
___
Family History:
___ has a complex family history of cancer.  Her mother 
apparently had breast cancer at age ___ and died of ovarian 
cancer at age ___.  The maternal aunt had breast cancer in her 
___, but apparently died from pancreatic cancer later in life.  
The daughter of the same aunt, the patient's first cousin, had 
breast cancer at age ___.  A maternal uncle died of pancreatic 
cancer at age ___.  There are no other maternal aunts.  The 
paternal grandmother had breast cancer.  The paternal 
grandfather was fine as were the maternal grandparents.  The 
patient's father died in an accident.  Two brothers and two 
sisters are well.  Both sisters apparently have been tested for 
BRCA, but the results
were "inconclusive."  The patient is not aware of any other 
genetic testing.  She has a ___ daughter who is doing 
well in her first year of college.
 
Physical Exam:
ADMISSION PHSYICAL EXAM
Vitals: T: Tmax 101.3, 98.9 BP: 106/59 ___ R:18 O2: 100% RA  

Gen: NAD, resting
Eyes: EOMI, no scleral icterus
HENT: NCAT, trachea midline
CV: RRR, S1-S2, no m/r/r/g, no edema, 2+ ___ BLE, intact 
radial
pulses right arm
Lungs: CTA B, no w/r/r/c
GI: +BS, soft, NTTP, ND
GU: No foley
MSK: ___ strength bilaterally, intact ROM, R forearm lateral
proximal to elbow with increased swelling, tight skin and
erythema
Neuro: Moving all extremities, no focal deficits, A+Ox3, no
parasthesias R arm
Skin: +erythema with central point around elbow spreading
proximal and distal past lines drawn in ED with warmth an dmild
TTP without point of entry site
Psych: Congruent affect, good judgment

DISCHARGE EXAM:
Vitals: 97.8PO 119 / 77 65 18 100 RA 
Gen: NAD, resting
Eyes: EOMI, no scleral icterus
HENT: NCAT, trachea midline
CV: RRR, S1-S2, no m/r/r/g, no edema, 2+ ___ BLE, intact 
radial
pulses right arm
Lungs: CTA B, no w/r/r/c
GI: +BS, soft, NTTP, ND
GU: No foley
MSK: ___ strength bilaterally, intact ROM, R forearm lateral
proximal to elbow with mild swelling and patchy resolving 
erythema
Neuro: Moving all extremities, no focal deficits, A+Ox3, no
parasthesias R arm
Skin: +erythema with central point around elbow spreading
proximal and distal past lines drawn in ED with warmth and mild
TTP without point of entry site
Psych: Congruent affect, good judgment
 
Pertinent Results:
AMDISSION LABS:
___ 
Na 134, Cl 100 K 4.0, HCO3 21, HCO3 27, Cr 09, Gluc 76
WBC 92, Hgb 12.1, Hct 38.4, Plt 329
UA neg
Lactate 1.3 

DISCHARGE LABS:
___ 05:05AM BLOOD WBC-9.9 RBC-3.18* Hgb-10.0* Hct-30.9* 
MCV-97 MCH-31.4 MCHC-32.4 RDW-13.2 RDWSD-47.5* Plt ___
___ 05:05AM BLOOD Glucose-83 UreaN-16 Creat-0.9 Na-139 
K-3.9 Cl-105 HCO3-21* AnGap-17

MICRO:
___ MRSA SCREEN MRSA SCREEN-PENDING INPATIENT 
___ URINE URINE ___ Alpha hemolytic 
strep
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 


IMAGING:
Superficial US RUE ___: 
There is edema within the subcutaneous fat below the area of 
erythema in the 
right posterior forearm.  No fluid collection or mass evident. 
No definite 
extension of edema into the musculature. 
  

 
Brief Hospital Course:
Ms. ___ is a ___ yo F with PMH stage IIIa melanoma s/p 
resection and LN resection/interferon in remission since ___, 
chronic R arm lymphedema presents to ___ ED on ___ with 
R upper extremity redness consistent with cellulitis. 

# RUE Cellulitis-- Pt presents with RUE swelling, erythema, and 
fevers c/w recurrent cellulitis.  Has been treated with IV abx 
at least 2x in the past and per her report, with azithro by her 
PCP ___ "cat scratch" given persistent swelling.  Pt started on 
IV vancomycin and azithro initially, with erythema tracking past 
demarcated borders.  She was seen by ID who recommended changing 
her abx to Vanc and Unasyn as appearance c/w Strep infection and 
low suspicion for cat-scratch.  Vanc also stopped on ___.  Pt 
continued to improve on Unasyn alone with marked improvement in 
erythema and swelling.  She will continue Augmentin on discharge 
for completion of 7-day course.

# Recurrent lymphedema-- h/o LN biopsy in ___, lymphedema 
without e/o
trauma. Unclear cause as pt has not had significant lymph node 
dissection.  ___ be increasing pt's risk of recurrent 
cellulitis.  Pt encouraged to discuss further w/u if warranted 
with OP Oncologist.
 
# h/o Stage IIIa melanoma in remission - s/p resection with LN 
biopsy/resection and 3 months interferon. Follows closely with 
dermatology and oncology.

# Essential Hypertension - controlled - continued enalapril 20, 
metop 100 ER

# Reflux - continued omeprazole 40

# hld - continued atorvastatin 40
 
Billing: greater than 30 minutes spent on discharge counseling 
and coordination of care

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. Enalapril Maleate 20 mg PO DAILY 
3. Metoprolol Succinate XL 100 mg PO DAILY 
4. Omeprazole 40 mg PO DAILY 
5. BuPROPion XL (Once Daily) 150 mg PO DAILY 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 5 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tab by mouth 
every 12 hours Disp #*10 Tablet Refills:*0 
2.  Atorvastatin 40 mg PO QPM  
3.  BuPROPion XL (Once Daily) 150 mg PO DAILY  
4.  Enalapril Maleate 20 mg PO DAILY  
5.  Metoprolol Succinate XL 100 mg PO DAILY  
6.  Omeprazole 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
R arm cellulitis
Recurrent lymphedema

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came in with a cellulitis of your right arm.  We treated you 
with an antibiotic called Unasyn to cover a bacteria called 
Strep and this improved your infection.  Please finish the 
course of antibiotics and continue to monitor your arm and 
return if you notice worsening redness, swelling, pain, fevers 
or chills.

It was a pleasure taking care of you at ___ 
___.
 
Followup Instructions:
___